US08809525B2
6-(5-Chloro-2-methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine (57 mg, 22%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.21 g, 0.80 mmol) and 5-chloro-2-methoxyphenylboronic acid (0.15 g, 0.80 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.80 mmol, 0.21 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 5-chloro-2-methoxyphenylboronic acid | 0.80 mmol, 0.15 g | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
product | 6-(5-Chloro-2-methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine | 57 mg, 22% | ClC=1C=CC(=C(C1)C1=C(N=C(N=N1)N)C1=CC=CC=C1)OC | C16H13ClN4O
